US07232819B2
Step 7: 2-(1,2-dimethylpiperazin-2-yl)-N-(4-fluorobenzyl)-5,6-dihydroxypyrimidine-4-carboxamide (C-47)
Crude material tert-butyl 3-(4-{[(4-fluorobenzyl)amino]carbonyl}-5,6-dihydroxypyrimdin-2-yl)-3,4-dimethylpiperazine-1-carboxylate (C-46) was stirred in DCM/TFA (1:1) for 1 hour. Evaporation of the solvent afforded the crude title compound (C47).

reactant | tert-butyl 3-(4-{[(4-fluorobenzyl)amino]carbonyl}-5,6-dihydroxypyrimdin-2-yl)-3,4-dimethylpiperazine-1-carboxylate | FC1=CC=C(CNC(=O)C2=NC(=NC(=C2O)O)C2(CN(CCN2C)C(=O)OC(C)(C)C)C)C=C1 | C23H30FN5O5
solvent | DCM TFA | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | 2-(1,2-dimethylpiperazin-2-yl)-N-(4-fluorobenzyl)-5,6-dihydroxypyrimidine-4-carboxamide | CN1C(CNCC1)(C)C1=NC(=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O)O | C18H22FN5O3
